US08349846B2
3-Bromo-2-[(E)-2-pyridin-3-ylvinyl]-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (250 mg, 1.045 mmol) and pyridine-3-aldehyde (168 mg, 1.561 mmol) in the presence of sodium ethoxide (142 mg, 2.086 mmol) in absolute ethanol (25 ml) as described in Intermediate 1 to give 203 mg of the product as a light yellow solid; 1H NMR (300 MHz, CDCl3) δ 7.11 (t, J=6.9 Hz, 1H), 7.32-7.36 (m, 1H), 7.63-7.76 (m, 3H), 7.98-8.05 (m, 2H), 8.57 (d, J=4.8 Hz, 1H), 8.35 (s, 1H), 8.97 (d, J=6.6 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 1.045 mmol, 250 mg | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | pyridine-3-aldehyde | 1.561 mmol, 168 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium ethoxide | 2.086 mmol, 142 mg | [O-]CC.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Bromo-2-[(E)-2-pyridin-3-ylvinyl]-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C=2C=NC=CC2 | C15H10BrN3O
